US05068325
2-Amino-6-(3-(2-amino-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared by catalytic hydrogenation of 2-amino-6-(3-(3-nitro-phenyl)allyl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine using Raney nickel in anhydrous dimethylformamide (4.5 hours at ambient temperature). After purification by column chromatography the base is dissolved in isopropanol. By the addition of ethereal hydrochloric acid, cooling, filtering and drying at 100° C./0.1 torr over phosphorus pentoxide the title compound is obtained. Yield: 37% of theory, Melting point: 160° C. (decomp.).

reactant | 2-amino-6-(3-(3-nitro-phenyl)allyl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)[N+](=O)[O-] | C16H18N4O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Raney nickel | [Ni] | Ni
product | 2-Amino-6-(3-(2-amino-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC=CC1=C(C=CC=C1)N | C16H20N4S
